US04266014
(d) 1-(2',2',2'-trifluoroethyl)-3-carboxy-2-pyrazolin-5-one
0.38 Mole (100 g) of 1-(2',2',2'-trifluoroethyl)-3-carbethoxy-2-pyrazolin-5-one were stirred for 1 hour at 90°-95° C. in 900 ml of 1 N sodium hydroxide. The mixture was acidified to pH 1 with concentrated hydrochloric acid and left standing overnight. The precipitate formed was filtered off and rinsed with water

reactant | 1-(2',2',2'-trifluoroethyl)-3-carbethoxy-2-pyrazolin-5-one | 0.38 Mole, 100 g | FC(CN1N=C(CC1=O)C(=O)OCC)(F)F | C8H9F3N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 900 ml | [OH-].[Na+]
product | 1-(2',2',2'-trifluoroethyl)-3-carboxy-2-pyrazolin-5-one | FC(CN1N=C(CC1=O)C(=O)O)(F)F | C6H5F3N2O3
